US09163008B2
To a mixture of the (S)-tert-butyl 2-chloro-6-((1-methoxy-1-oxopropan-2-yl)amino)pyrimidine-4-carboxylate (0.347 g, 1.10 mmol) in dioxane (10 mL) was added 2-(4-(4-fluorophenoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.348 g, 1.11 mmol), 2M aqueous Na2CO3 (1.10 mL, 2.20 mmol) and PdCl2(dppf) (0.050 g, 0.061 mmol). The reaction vessel was flushed with argon, sealed, and heated at 80° C. for 2 days. After cooling, the reaction mixture was evaporated in vacuo and the residue chromatographed over silica gel with 10-40% EtOAc in hexanes. The product fractions were evaporated in vacuo to give (S)-tert-butyl 2-(4-(4-fluorophenoxy)phenyl)-6-((1-methoxy-1-oxopropan-2-yl)amino)pyrimidine-4-carboxylate as an off-white foam (0.316 g, 0.676 mmol, 61% yield). 1H NMR (400 MHz, DMSO-d6): 8.31-8.25 (3H, m), 7.32-7.24 (2H, m), 7.19-7.14 (2H, m), 7.06 (2H, d, J=9.0 Hz), 7.04 (1H, s), 4.60-4.51 (1H, m), 3.63 (3H, s), 1.56 (9H, s), 1.44 (3H, d, J=7.2 Hz). LC/MS: m/z=468.2 [M+H]+.

reactant | (S)-tert-butyl 2-chloro-6-((1-methoxy-1-oxopropan-2-yl)amino)pyrimidine-4-carboxylate | 1.10 mmol, 0.347 g | ClC1=NC(=CC(=N1)C(=O)OC(C)(C)C)N[C@H](C(=O)OC)C | C13H18ClN3O4
reactant | 2-(4-(4-fluorophenoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.11 mmol, 0.348 g | FC1=CC=C(OC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=C1 | C18H20BFO3
reactant | Na2CO3 | 2.20 mmol, 2M, 1.10 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.061 mmol, 0.050 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-tert-butyl 2-(4-(4-fluorophenoxy)phenyl)-6-((1-methoxy-1-oxopropan-2-yl)amino)pyrimidine-4-carboxylate | 0.676 mmol, 0.316 g, 61% yield | FC1=CC=C(OC2=CC=C(C=C2)C2=NC(=CC(=N2)C(=O)OC(C)(C)C)N[C@H](C(=O)OC)C)C=C1 | C25H26FN3O5
